US07498337B2
1-(2-chloropyridin-3-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde
By a reaction under similar conditions as in Reference Example 55 and using 5-phenyl-1H-pyrrole-3-carbaldehyde (514 mg), sodium hydride (60% in oil, 180 mg), 15-crown-5 (0.90 mL) and 2-chloro-3-pyridinesulfonyl chloride (716 mg), the title compound was obtained as an amorphous form (yield 716 mg, 69%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 514 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 180 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.90 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2-chloro-3-pyridinesulfonyl chloride | 716 mg | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
product | 1-(2-chloropyridin-3-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | ClC1=NC=CC=C1S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C16H11ClN2O3S
